US07652138B2
I.2: methyl 2,2′-dichlorobenzilate 3b
A solution of 10.0 g (0.034 mol) of 2,2′-dichlorobenzilic acid in 50 ml of ethanol was added dropwise to freshly prepared sodium ethoxide solution of 0.78 g (0.034 mol) of sodium and 100 ml of ethanol at 20° C. and stirred overnight. The solution was evaporated to dryness, the residue was dissolved in DMF and at 20° C. 9.57 g (0.0674 mol) of methyl iodide were added dropwise and the mixture was stirred for a further 72 hours. 300 ml of water were added dropwise to the resulting suspension while cooling with ice, it was extracted with diethyl ether, the organic phase was washed with water, dried over Na2SO4, and evaporated to dryness. Yield: 10.48 g (100% of theory).

reactant | 2,2′-dichlorobenzilic acid | 0.034 mol, 10.0 g | ClC1=C(C(C(=O)O)(O)C2=C(C=CC=C2)Cl)C=CC=C1 | C14H10Cl2O3
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 0.034 mol, 0.78 g | [Na] | Na
reactant | methyl iodide | 0.0674 mol, 9.57 g | CI | CH3I
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 300 ml | O | H2O
product | methyl 2,2′-dichlorobenzilate | ClC1=C(C(C(=O)OC)(O)C2=C(C=CC=C2)Cl)C=CC=C1 | C15H12Cl2O3
